US05532258
2-(Diaminomethyleneamino)-4-(4-acetylaminomethylphenyl)thiazole was dissolved in a mixture of methanol (100 ml) and conc. hydrochloric acid (2 ml) and the resulting mixture was evaporated in vacuo and the residue was recrystallized from a mixture of methanol and acetone to give 2-(diaminomethyleneamino)-4-(4-acetylaminomethylphenyl)thiazole dihydrochloride (1.96 g).

reactant | 2-(Diaminomethyleneamino)-4-(4-acetylaminomethylphenyl)thiazole | NC(N)=NC=1SC=C(N1)C1=CC=C(C=C1)CNC(C)=O | C13H15N5OS
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 2-(diaminomethyleneamino)-4-(4-acetylaminomethylphenyl)thiazole dihydrochloride | 1.96 g | Cl.Cl.NC(N)=NC=1SC=C(N1)C1=CC=C(C=C1)CNC(C)=O | InChI=1S/C13H15N5OS.2ClH/c1-8(19)16-6-9-2-4-10(5-3-9)11-7-20-13(17-11)18-12(14)15;;/h2-5,7H,6H2,1H3,(H,16,19)(H4,14,15,17,18);2*1H
